US07528173B2
To a solution of 2-(3-(t-butoxycarbonylamino)methylphenyl)-3-((1-amino-2-methylpropyl)(ethoxy)phosphinoyl)propanoic acid methyl ester (344 mg, 0.75 mmol) in methylene chloride (10 mL) was added DIEA (394 μL, 2.25 mmol) followed by DMAP (3.4 mg (cat.)). The reaction mixture was cooled to 0° C. and a solution of benzenesulfonyichloride (200 mg, 1.13 mmol) in methylene chloride was added dropwise over 15 minutes. The reaction mixture was stirred at 0° C. for 30 minutes and allowed to warm to ambient temperature overnight. The reaction was diluted with methylene chloride and washed with 2 N aq NaHSO4, water, brine and dried over sodium sulfate. Evaporation gave a crude residue (425 mg) that was dissolved in 2.5 mL of methylene chloride and cooled to 0° C. under N2. TMSBr (1 mL) was added dropwise and the reaction was stirred at ambient temperature overnight, quenched with MeOH and evaporated. The resulting residue was dissolved in 5 mL of MeOH/H2O (1:1), neutralized with 0.25 M aq LiOH and 300 mg of LiOH and 10 mL of H2O. The reaction mixture was stirred at ambient temperature overnight. The solvents were evaporated and purification by preparative HPLC yielded 150 mg of 2-(3-(amino)methylphenyl)-3-((1-(phenylsulfonyl)amino-2-methylpropyl)(hydroxy)-phosphinoyl)propanoic acid, NMR (DMSO-d6) 0.5-0.8 (m, 6), 1.8 (m, 1), 1.92 (m, 1), 2.35 (m, 1) 3.25 (m, 1), 3.82 (m, 1), 4.0 (s, 2), 7.2 (dd, 1), 7.25-7.4 (m, 3), 7.4-7.6 (m, 3), 7.8 (m, 3), 8.18 (s, 3) ppm.

reactant | 2-(3-(t-butoxycarbonylamino)methylphenyl)-3-((1-amino-2-methylpropyl)(ethoxy)phosphinoyl)propanoic acid methyl ester | 0.75 mmol, 344 mg | COC(C(CP(=O)(OCC)C(C(C)C)N)C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O | C22H37N2O6P
reactant | DIEA | 2.25 mmol, 394 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzenesulfonyichloride | 1.13 mmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | TMSBr | 1 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(amino)methylphenyl)-3-((1-(phenylsulfonyl)amino-2-methylpropyl)(hydroxy)-phosphinoyl)propanoic acid | 150 mg | NCC=1C=C(C=CC1)C(C(=O)O)CP(=O)(O)C(C(C)C)NS(=O)(=O)C1=CC=CC=C1 | C20H27N2O6PS
